US09062048B2
Step B: 2,2,3,3,4,4,4-heptafluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)butan-1-ol
To a solution of trimethyl (2,2,3,3,4,4,4-heptafluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)butoxy)trimethylsilane (265 mg, 0.643 mmol, prepared in the previous step) in THF (10 mL) was added a TBAF (0.64 mL, 0.64 mmol, 1 M in THF) dropwise. After the complete addition, the reaction mixture was at room temperature 2 hours and then concentrated in vacuo. The residue purified by flash chromatography (silica gel, 0-100% ethyl acetate/heptane) to afford the product.

reactant | trimethyl (2,2,3,3,4,4,4-heptafluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)butoxy)trimethylsilane | CC([Si](C)(C)OC(C(C(C(F)(F)F)(F)F)(F)F)C1CCC2(OCCO2)CC1)(C)C | C18H29F7O3Si
reactant | TBAF | 0.64 mmol, 1 M, 0.64 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,2,3,3,4,4,4-heptafluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)butan-1-ol | FC(C(O)C1CCC2(OCCO2)CC1)(C(C(F)(F)F)(F)F)F | C12H15F7O3
